* C:\Users\Michael Marsh\OneDrive\Documents\LTspiceXVII\LPB1_Spice_Model\LBP1.asc
Q1 N002 N004 N005 0 2N5088
R1 N003 0 1Meg
R2 N001 N004 1Meg
R3 N001 N002 10k
R4 N004 0 100k
R5 N005 0 390
C1 N004 N003 100n
C2 OUT N002 100n
V1 N001 0 9
V2 N003 0 WAVEFILE=Zero_MetaData_Natalie_Guitar_Clean_32bitPCM.wav
R6 OUT 0 100k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Michael Marsh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib http://www.centralsemi.com/docs/csm/2N5088.LIB
.tran 10s
.backanno
.end
